US05128472
117 g of the 4-[2-(4-octylphenyl)-1-thioxoethyl]-morpholine was added to 250 ml of ethanol and dissolved therein. 50 ml of water and 46.3 g of potassium hydroxide were added to the obtained solution and the mixture was refluxed for three hours and then allowed to cool to room temperature. Then 10% hydrochloric acid was added thereto by portions until the mixture became acidic. After adding 500 ml of ethyl acetate, the organic layer was washed with water until the aqueous layer became neutral. The organic layer was separated and the solvent was distilled off. To the residue, were added 500 ml of triethylene glycol, 70 ml of water and 77.2 g of potassium hydroxide and the resulting mixture was refluxed for four hours. After allowing to cool to room temperature, 10% hydrochloric acid was added thereto by portions until it became acidic. After adding 500 ml of ethyl acetate, the organic layer was washed with water until the aqueous layer became neutral. The organic layer was separated and dehydrated over anhydrous sodium sulfate. The solvent was distilled off and the residue was recrystallized from hexane. Thus 65.5 g of p-octylphenylacetic acid was obtained. Yield: 74%.

reactant | 4-[2-(4-octylphenyl)-1-thioxoethyl]-morpholine | 117 g | C(CCCCCCC)C1=CC=C(C=C1)CC(=S)N1CCOCC1 | C20H31NOS
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 46.3 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | p-octylphenylacetic acid | 65.5 g, Yield: 74% | C(CCCCCCC)C1=CC=C(C=C1)CC(=O)O | C16H24O2
